US06653471B2
A mixture of 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide (58 mg), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (181 mg), triethylamine (0.07 mL), 4-fluoroaniline (30 mg), and N,N-dimethylformamide (4 mL) is heated at 400 for 18 hours. The mixture is cooled to room temperature, treated with water (15 mL), and extracted with ethyl acetate (3×50 mL). The combined organic layers are washed with water (2×15 mL) and brine (1×15 mL), dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by preparative thin layer chromatography on silica gel, eluting with 5% methanol in dichloromethane, to give 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid (4-fluorophenyl)amide, pale brown solid, 18 mg: LRMS calcd 296.30, found [M+H] 297.2.

reactant | 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide | 58 mg | Br.N=1C=CN2CCC=3NC=C(C3C12)C(=O)O
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 181 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluoroaniline | 30 mg | FC1=CC=C(N)C=C1 | C6H6FN
solvent | water | 15 mL | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid (4-fluorophenyl)amide | FC1=CC=C(C=C1)NC(=O)C1=CNC=2CCN3C=CN=C3C12 | C16H13FN4O
